US04025527
A solution of 4-methyl-5-[(2-aminopropyl)thiomethyl]imidazole (4.0 g., from the dihydrobromide) and S-methyl-N-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]thiouronium sulphate (3.35 g) in water (25 ml) was heated under reflux for 4 hours. Concentration, followed by purification on ion-exchange resin C.G.50 (H+), with elution by 0.02N hydrochloric acid, treatment with sodium hydroxide and picrolonic acid afforded N-[2-(4-methyl-5-imidazolylmethylthio)ethyl]-N'-[2-(4-methyl-5-imidazolylmethylthio)propyl]guanidine tripicrolonate (1.75 g, m.p. 173°-175°, from aqueous dimethylformamide).

reactant | 4-methyl-5-[(2-aminopropyl)thiomethyl]imidazole | CC=1N=CNC1CSCC(C)N | C8H15N3S
reactant | S-methyl-N-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]thiouronium sulphate | 3.35 g | S(=O)(=O)([O-])[O-].CSC(=[NH+]CCSCC1=C(N=CN1)C)N.CSC(=[NH+]CCSCC1=C(N=CN1)C)N
solvent | water | 25 ml | O | H2O
product | N-[2-(4-methyl-5-imidazolylmethylthio)ethyl]-N'-[2-(4-methyl-5-imidazolylmethylthio)propyl]guanidine | 1.75 g | CC=1N=CNC1CSCCNC(=N)NCC(C)SCC1=C(N=CN1)C | C16H27N7S2
